US07687491B2
(23d) 4-Bromo-2-fluoro-1-(2-methylprop-1-en-1-yl)benzene
To a solution of isopropyltriphenylphosphonium iodide (0.65 g, 1.5 mmol) in N,N-dimethylformamide (6 ml) was added slowly a solution of potassium t-butoxide (0.18 g, 1.6 mmol) in N,N-dimethylformamide (2 ml) at 0° C. with stirring, and the resulting mixture was stirred for 30 minutes. Furthermore, to the reaction mixture was added a solution of 4-bromo-2-fluorobenzaldehyde (0.20 g, 1.0 mmol) in N,N-dimethylformamide (2 ml) at the same temperature with stirring, and after raising the reaction temperature to room temperature, the resulting mixture was furthermore stirred for 1 hour. After stirring, a saturated aqueous solution of ammonium chloride (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (0.19 g) in a yield of 82% as a colourless oily product.

reactant | isopropyltriphenylphosphonium iodide | 1.5 mmol, 0.65 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 1.6 mmol, 0.18 g | CC(C)([O-])C.[K+]
reactant | 4-bromo-2-fluorobenzaldehyde | 1.0 mmol, 0.20 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 4-Bromo-2-fluoro-1-(2-methylprop-1-en-1-yl)benzene | yield of 82% | BrC1=CC(=C(C=C1)C=C(C)C)F | C10H10BrF
